US09085555B2
B. (S)-4-Hydroxymethyl-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
A solution of (S)-4-formyl-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (3.32 g, 12.3 mmol) in CH2Cl2 (51.4 mL) was cooled at −78° C. under nitrogen atmosphere, solid NaBH4 (1 g, 24.7 mmol) was added portionwise maintaining the temperature at −78° C. MeOH (25.7 mL) was added dropwise and the reaction mixture was allowed to reach 0° C. and was stirred 1 h30 at 0° C. The reaction was quenched with an aqueous saturated solution of NH4Cl and extracted with CH2Cl2 (×3). The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1 to EtOAc) to give the desired material as a yellow oil. Rf, TLC (c-hexane/EtOAc 1:1)=0.30; MS (UPLC-MS): 272.2 [M+H]+, 316 [M+HCOO]−; tR (HPLC conditions f): 1.74 min.

reactant | (S)-4-formyl-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 12.3 mmol, 3.32 g | CCOC(=O)[C@H]1N(C=C(C1)C=O)C(=O)OC(C)(C)C | C13H19NO5
reactant | NaBH4 | 24.7 mmol, 1 g | [BH4-].[Na+]
reactant | MeOH | 25.7 mL | CO | CH4O
solvent | CH2Cl2 | 51.4 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-Hydroxymethyl-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)[C@H]1N(C=C(C1)CO)C(=O)OC(C)(C)C | C13H21NO5
